mosmem - mos memory cell
* KNOWN GAP: nonzero transient output-start time is rejected by the dispatcher.
* This correctness test should currently fail; implement support to match the expected output.
* Expected results: bench_ngspice_mosmem.expected.json
* Origin: benchmark/fixtures/ngspice/mosmem/circuit.sp
.width in=72
.opt abstol=1u

.opt list node noacct
* The original line is below
*.opt acct list node

.tran 20ns 2us
vdd 9 0 dc 5
vs 7 0 pulse(2 0 520ns 20ns 20ns 500ns 2000ns)
vw 1 0 pulse(0 2 20ns 20ns 500ns 200ns 2000ns)
vwb 2 0 pulse(2 0 20ns 20ns 20ns 2000ns 2000ns)
m1 3 1 0 0 mod w=250u l=5u
m2 4 2 0 0 mod w=250u l=5u
m3 9 9 3 0 mod w=5u   l=5u
m4 9 9 4 0 mod w=5u   l=5u
m5 5 7 3 0 mod w=50u  l=5u
m6 6 7 4 0 mod w=50u  l=5u
m7 5 6 0 0 mod w=250u  l=5u
m8 6 5 0 0 mod w=250u  l=5u
m9 9 9 5 0 mod w=5u   l=5u
m10 9 9 6 0 mod w=5u  l=5u
m11 8 4 0 0 mod w=250u l=5u
m12 9 9 8 0 mod w=5u   l=5u
.model mod nmos(vto=0.5 phi=0.7 kp=1.0e-6 gamma=1.83 lambda=0.115
+   level=1 cgso=1u cgdo=1u cbd=50p cbs=50p)
.print dc v(5) v(6)
.plot dc v(6)
.plot tran v(6) v(5) v(7) v(1) v(2)
.end
